US04530793
(B) Preparation of Silver (3S,4R)-3-(1-hydroxyethyl)-1-allyloxycarbonylmethylazetidin-2-one-4-thiolate
To a 50 ml flask equipped with a nitrogen atmosphere add 10 ml of methanol and 460 mg of (3S,4R)-1-(allyloxycarbonylmethyl)-3-(1-hydroxyethyl)-4-(triphenylmethylthio)azetidin-2-one. To this system add 160 mg silver nitrate and 0.15 ml of pyridine. Stir the system at 20° C. for 1 hour. Stop the reaction and remove the methanol by stripping to give the title compound.

reactant | methanol | 10 ml | CO | CH4O
reactant | (3S,4R)-1-(allyloxycarbonylmethyl)-3-(1-hydroxyethyl)-4-(triphenylmethylthio)azetidin-2-one | 460 mg | C(C=C)OC(=O)CN1C([C@@H]([C@H]1SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(C)O)=O | C29H29NO4S
reactant | silver nitrate | 160 mg | [N+](=O)([O-])[O-].[Ag+]
solvent | pyridine | 0.15 ml | N1=CC=CC=C1 | C5H5N
product | Silver (3S,4R)-3-(1-hydroxyethyl)-1-allyloxycarbonylmethylazetidin-2-one-4-thiolate | OC(C)[C@H]1C(N([C@@H]1[S-])CC(=O)OCC=C)=O.[Ag+] | InChI=1S/C10H15NO4S.Ag/c1-3-4-15-7(13)5-11-9(14)8(6(2)12)10(11)16;/h3,6,8,10,12,16H,1,4-5H2,2H3;/q;+1/p-1/t6?,8-,10+;/m0./s1
